US06630493B1
a) Methyl 2-(2-naphthalenesulfonamido)pyridine-3-carboxylate
5.9 g (26 mmol) of naphthalene-2-sulfonyl chloride were added in portions at room temperature to 4.7 g (25 mmol) of methyl 6-aminonicotinate hydrochloride in 100 ml of dry pyridine. The entire mixture was then stirred at room temperature for 16 h. The reaction solution was then poured onto 500 ml of water and the precipitate obtained was filtered off with suction. 6.4 g (75%) of the product were obtained.

reactant | naphthalene-2-sulfonyl chloride | 26 mmol, 5.9 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | methyl 6-aminonicotinate hydrochloride | 25 mmol | Cl.NC1=NC=C(C(=O)OC)C=C1
reactant | water | 500 ml | O | H2O
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-(2-naphthalenesulfonamido)pyridine-3-carboxylate | 6.4 g, 75% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1=NC=CC=C1C(=O)OC | C17H14N2O4S
